US06248740B1
Production of 1-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazin-2-yl]cyclopentanecarboxylic acid
598 mg of isopropyl 1-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]cyclopentanecarboxylate dihydrochloride was dissolved in 3 ml of ethanol; 2.24 ml of a 2 N aqueous solution of sodium hydroxide was added, followed by thermal refluxing for 7 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was diluted with water, washed with ethyl acetate and ajusted to pH 4.5 by the addition of 1 N hydrochloric acid. The mixture was saturated with sodium chloride and extracted with ethyl acetate-tetrahydrofuran (1:2); the extract was dried with magnesium sulfate. The dry product was concentrated under reduced pressure, powdered by the addition of ethyl acetate-ethyl ether (1:1), washed with ethyl ether and dried to yield 349 mg of the title compound.

reactant | isopropyl 1-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]cyclopentanecarboxylate dihydrochloride | 598 mg | Cl.Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C2(CCCC2)C(=O)OC(C)C)C2=CC=CC=C2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazin-2-yl]cyclopentanecarboxylic acid | 349 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C2(CCCC2)C(=O)O)C2=CC=CC=C2 | C33H39N5O3
